US07022677B1
N-(2-Ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid, 4
To methanol solution (13 ml) of N-(2-ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid ethylester 1.46 g (6.05 mmol), 2N—NaOH solution (6.5 ml) was added, and stirring was continued at room temperature for 2 hours. The reaction mixture was cooled on ice-bath, and adjusted to pH2 with 6N—HCl solution. The reaction mixture was concentrated in vacuo, and the residue was dissolved in chloroform, washed with water, and then dried over anhydrous sodium sulfate. The solvents were removed in vacuo to yield 1.35 g of desired product as an oil. NMR was consistent with the desired title product.

reactant | N-(2-ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid ethylester | 6.05 mmol, 1.46 g | C(C)OC(=O)[C@H]1N(CCC1)C(C(CC)CC)=O | C13H23NO3
reactant | NaOH | 6.5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 13 ml | CO | CH4O
product | N-(2-Ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid | 1.35 g | C(C)C(C(=O)N1[C@@H](CCC1)C(=O)O)CC | C11H19NO3
